US04730061
N-(2,6-dimethylphenyl)-2,6-dimethyl-4-oxo-4H-pyran-3-carboxamide
The title compound was prepared from N-(2,6-dimethylphenyl)-3-oxo-butanamide and N,N-dimethylhydrazine as the raw materials in a similar manner to the method described in Example 2. (Yield: 63%).

reactant | N-(2,6-dimethylphenyl)-3-oxo-butanamide | CC1=C(C(=CC=C1)C)NC(CC(C)=O)=O | C12H15NO2
reactant | N,N-dimethylhydrazine | CN(N)C | C2H8N2
product | N-(2,6-dimethylphenyl)-2,6-dimethyl-4-oxo-4H-pyran-3-carboxamide | Yield: 63% | CC1=C(C(=CC=C1)C)NC(=O)C1=C(OC(=CC1=O)C)C | C16H17NO3
